### PR TITLE
[Merged by Bors] - feat(Analysis): pre/postcomposition by an isometry preserves the operator norm

### PR DESCRIPTION
**Pull request by YaelDillies**
Also create a separate section for the new series of similar lemmas.

Note that a few lemmas had to change from `f.toLinearIsometry.toContinuousLinearMap` to `f.toContinuousLinearEquiv.toContinuousLinearMap` because the latter is the inferred coercion from `LinearIsometryEquiv` to `ContinuousLinearMap`. This is in line with our decision to deprioritise coercions from isos to homs (compared to coercions within isos).

From MeanFourier

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean [hunk 1]
```diff
@@ -219,6 +202,66 @@ lemma norm_smulRightL_le : ‖smulRightL 𝕜 E Fₗ‖ ≤ 1 :=
...
+@[simp]
+lemma opNNNorm_linearIsometryEquiv_comp [RingHomIsometric σ₁₂] (e : F ≃ₛₗᵢ[σ₂₃] G)
+    (f : E →SL[σ₁₂] F) : ‖(e : F →SL[σ₂₃] G).comp f‖₊ = ‖f‖₊ :=
+  eq_of_forall_ge_iff fun r ↦ by simp [opNNNorm_le_iff]
+
+/-- Precomposition with a linear isometry preserves the operator norm. -/
+@[simp]
+lemma opNorm_comp_linearIsometryEquiv [RingHomIsometric σ₂₃] (f : F →SL[σ₂₃] G)
+    (e : E ≃ₛₗᵢ[σ₁₂] F) : ‖f.comp (e : E →SL[σ₁₂] F)‖ = ‖f‖ :=
+  congr($(opNNNorm_comp_linearIsometryEquiv f e))
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/NormedSpace.lean]:
```suggestion
    (e : E ≃ₛₗᵢ[σ₁₂] F) : ‖f.comp (e : E →SL[σ₁₂] F)‖ = ‖f‖ := by
  simp [← coe_nnnorm]
```

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean [hunk 2]
```diff
@@ -219,6 +202,66 @@ lemma norm_smulRightL_le : ‖smulRightL 𝕜 E Fₗ‖ ≤ 1 :=
...
+
+/-- Postcomposition with a linear isometry preserves the operator norm. -/
+@[simp]
+lemma opNorm_linearIsometryEquiv_comp [RingHomIsometric σ₁₂] (e : F ≃ₛₗᵢ[σ₂₃] G)
+    (f : E →SL[σ₁₂] F) : ‖(e : F →SL[σ₂₃] G).comp f‖ = ‖f‖ :=
+  congr($(opNNNorm_linearIsometryEquiv_comp e f))
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/NormedSpace.lean]:
```suggestion
    (f : E →SL[σ₁₂] F) : ‖(e : F →SL[σ₂₃] G).comp f‖ = ‖f‖ := by
  simp [← coe_nnnorm]
```

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean [hunk 3]
```diff
@@ -219,6 +202,66 @@ lemma norm_smulRightL_le : ‖smulRightL 𝕜 E Fₗ‖ ≤ 1 :=
 
 end ContinuousLinearMap
 
+/-! ### Composition with isometries -/
+
+namespace ContinuousLinearMap
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/NormedSpace.lean]: Why end namespace and begin new namespace with the same name?
And I think they have the same variables too? Or am I mistaken?

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Operator/NormedSpace.lean]: No, they do not have the same variables. I think it's more confusing to merge them, but I have done so anyway

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean [hunk 4]
```diff
@@ -182,33 +182,15 @@ end ContinuousLinearMap
...
-    haveI := g.symm.surjective.nontrivial
-    simp [g.symm.toLinearIsometry.norm_toContinuousLinearMap]
+variable
+  [NontriviallyNormedField 𝕜] [NormedSpace 𝕜 E] [NormedSpace 𝕜 Fₗ]
+  [NontriviallyNormedField 𝕜₁] [NormedSpace 𝕜₁ E]
+  [NontriviallyNormedField 𝕜₂] [NormedSpace 𝕜₂ F]
+  [NontriviallyNormedField 𝕜₃] [NormedSpace 𝕜₃ G]
+  {σ₁₂ : 𝕜₁ →+* 𝕜₂} {σ₂₁ : 𝕜₂ →+* 𝕜₁} [RingHomInvPair σ₁₂ σ₂₁] [RingHomInvPair σ₂₁ σ₁₂]
+  {σ₂₃ : 𝕜₂ →+* 𝕜₃} {σ₃₂ : 𝕜₃ →+* 𝕜₂} [RingHomInvPair σ₂₃ σ₃₂] [RingHomInvPair σ₃₂ σ₂₃]
+  {σ₁₃ : 𝕜₁ →+* 𝕜₃} [RingHomIsometric σ₁₃]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/NormedSpace.lean:192]: how about just using `𝕜` instead of `𝕜₁`? so

```suggestion
  [NontriviallyNormedField 𝕜₂] [NormedSpace 𝕜₂ F]
  [NontriviallyNormedField 𝕜₃] [NormedSpace 𝕜₃ G]
  {σ₁₂ : 𝕜 →+* 𝕜₂} {σ₂₁ : 𝕜₂ →+* 𝕜} [RingHomInvPair σ₁₂ σ₂₁] [RingHomInvPair σ₂₁ σ₁₂]
  {σ₂₃ : 𝕜₂ →+* 𝕜₃} {σ₃₂ : 𝕜₃ →+* 𝕜₂} [RingHomInvPair σ₂₃ σ₃₂] [RingHomInvPair σ₃₂ σ₂₃]
  {σ₁₃ : 𝕜 →+* 𝕜₃} [RingHomIsometric σ₁₃]
```

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean [hunk 5]
```diff
@@ -217,6 +199,52 @@ theorem norm_smulRightL (c : StrongDual 𝕜 E) [Nontrivial Fₗ] : ‖smulRight
...
+@[simp]
+lemma opNorm_comp_linearIsometryEquiv [RingHomIsometric σ₂₃] (f : F →SL[σ₂₃] G)
+    (e : E ≃ₛₗᵢ[σ₁₂] F) : ‖f.comp (e : E →SL[σ₁₂] F)‖ = ‖f‖ := by simp [← coe_nnnorm]
+
+/-- Postcomposition with a linear isometry preserves the operator norm. -/
+@[simp]
+lemma opNorm_linearIsometryEquiv_comp [RingHomIsometric σ₁₂] (e : F ≃ₛₗᵢ[σ₂₃] G)
+    (f : E →SL[σ₁₂] F) : ‖(e : F →SL[σ₂₃] G).comp f‖ = ‖f‖ := by simp [← coe_nnnorm]
+
+variable {𝕜 E : Type*} [NontriviallyNormedField 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/NormedSpace.lean]: and I don't think you need this? these are already declared?
```suggestion
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/Analysis/Normed/Operator/NormedSpace.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Operator/NormedSpace.lean:192]: I find this convention of dropping `₁` very annoying (how am I supposed to name the ring homs then?), but maybe it's just me?

Comment (themathqueen) [reply Mathlib/Analysis/Normed/Operator/NormedSpace.lean:192]: That's fair. I don't think it hurts to keep, just keep it

File: Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean [hunk 6]
```diff
@@ -142,7 +142,7 @@ from the space `α →ᵇ E` of bounded continuous functions, so this constructi
 transferring the structure from `BoundedContinuousFunction.toLp` along the isometry. -/
 noncomputable def toLp : C(α, E) →L[𝕜] Lp E p μ :=
   (BoundedContinuousFunction.toLp p μ 𝕜).comp
-    (linearIsometryBoundedOfCompact α E 𝕜).toLinearIsometry.toContinuousLinearMap
+    (linearIsometryBoundedOfCompact α E 𝕜).toContinuousLinearEquiv.toContinuousLinearMap
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean:145]: Why this change?

File: Mathlib/Probability/Distributions/Gaussian/Multivariate.lean [hunk 7]
```diff
@@ -131,7 +131,7 @@ lemma stdGaussian_map {F : Type*} [NormedAddCommGroup F] [InnerProductSpace ℝ
   have := f.finiteDimensional
   apply Measure.ext_of_charFunDual
   ext L
-  simp_rw [show ⇑f = f.toLinearIsometry.toContinuousLinearMap from rfl, charFunDual_map,
+  simp_rw [show ⇑f = f.toContinuousLinearEquiv.toContinuousLinearMap from rfl, charFunDual_map,
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian/Multivariate.lean:134]: ditto

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean:145]: I think it's because the coercion from linear isometry equivalence to a continuous linear map goes through that way (and the edited lemma changes it from `.toLinearIsometry.toContinuousLinearMap` to the coercion)

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSpace/ContinuousFunctions.lean:145]: Yes, exactly. We have decided on Zulip that coercions from isos to homs should factor through first weakenings of the iso, and only at the end weakening from the iso to the hom

**Comment by YaelDillies** [comment]
bors merge
